US04873239
N-(4-Morpholinylmethylene)-3-phenyl-1,2,4-thiadiazole-5-sulfonamide
Thionyl chloride (4.5 ml) was added dropwise to 3.0 g of 3-phenyl-1,2,4-thiadiazole-5-sulfonamide in 15 ml of dry N-formylmorpholine at -5°. The resulting mixture was stirred at room temperature for 3 hours, poured into ice water and stirred for 15 minutes. The solids were collected, washed with water, dried, triturated with ether, washed with hexane and dried (in vacuo, P2O5). Recrystallization from benzene/hexane gave 1.1. g of solid, m.p. 185°-187°.

reactant | Thionyl chloride | 4.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-phenyl-1,2,4-thiadiazole-5-sulfonamide | 3.0 g | C1(=CC=CC=C1)C1=NSC(=N1)S(=O)(=O)N | C8H7N3O2S2
reactant | N-formylmorpholine | 15 ml | C(=O)N1CCOCC1 | C5H9NO2
product | N-(4-Morpholinylmethylene)-3-phenyl-1,2,4-thiadiazole-5-sulfonamide | N1(CCOCC1)C=NS(=O)(=O)C1=NC(=NS1)C1=CC=CC=C1 | C13H14N4O3S2
